US06214817B1
Dimethyl 4-chloro-2,6-pyridine dicarboxylate, prepared as in Example 4, (85.0 g, 370 mmol) was dissolved in MeOH (2.3 L). The solution was cooled to 0° C. To the cooled solution was added NaBH4 (63.0 g, 167 mmol) in small portions. The reaction mixture stirred at 0° C. for 1 hour, then at room temperature for 2-3 hours. After about 3 hours, the mixture was allowed to reflux overnight. Acetone (425 mL) was added to the reaction mixture. The solution was heated to reflux for 1 hour, then was concentrated in vacuo. Saturated Na2CO3 solution (650 mL) was added to the concentrate and refluxed for 45 minutes. The flask was allowed to reach room temperature and left at room temperature for 16 h. The flask contained a white precipitate which was filtered and washed with chloroform (30 mL). The white solid was dissolved in hot THF (300 mL), dried over magnesium sulfate and filtered, then concentrated in vacuo to afford 32.1 g 4-chloro-2,6-dihydroxymethyl pyridine as a white solid. The filtrate was concentrated. The resulting white solid was heated in THF (500 mL), dried over magnesium sulfate and filtered. This process was repeated then the solid was stirred in 200 mL of CHCl3 and filtered to afford an additional 23.6 g (87% overall yield) of pure 4-chloro-2,6-dihydroxymethyl pyridine as a white solid: 1H NMR (CD3OD, 400 MHz) δ 7.62 (s, 2H), 5.02 (s, 2H), 4.83 (s, 4H). 13C NMR (CD3OD, 100 MHz) δ 162.57, 145.75, 118.76, 63.74.

reactant | Dimethyl 4-chloro-2,6-pyridine dicarboxylate | ClC1=CC(=NC(=C1)C(=O)OC)C(=O)OC | C9H8ClNO4
reactant | NaBH4 | 167 mmol, 63.0 g | [BH4-].[Na+]
reactant | Acetone | 425 mL | CC(=O)C | C3H6O
solvent | MeOH | 2.3 L | CO | CH4O
product | 4-chloro-2,6-dihydroxymethyl pyridine | 32.1 g | ClC1=CC(=NC(=C1)CO)CO | C7H8ClNO2
